US07919504B2
(S)-tert-Butyl 1-(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-yl)-1-oxo-3-(6-(trifluoromethyl)pyridin-3-yl)propan-2-ylcarbamate.
(S)-2-(tert-Butoxycarbonylamino)-3-(6-(trifluoromethyl)pyridin-3-yl)propanoic acid (2.4 g, 7.2 mmol), 2,2-dimethyl-1,3-dioxane-4,6-dione (1.1 g, 7.9 mmol), and N,N-dimethylpyridin-4-amine (1.4 g, 11 mmol) in 30 mL DCM were cooled in an ice-water-sodium chloride bath (−5° C.). N-((cyclohexylimino)methylene)cyclohexanamine (1.6 g, 7.9 mmol) in 50 mL DCM was added dropwise in about 40 minutes. The reaction mixture was stirred for 16 hours at room temperature. The suspension was filtered, and the solid was washed with DCM. The filtrate was washed with 5% KHSO4 (4×50 mL) and once with brine, and dried over MgSO4. After removing the solvent, the product was obtained as a white solid (3.0 g, 91%). LCMS (API-ES) m/z (%): 461.0 (100%, M+H+).

reactant | (S)-2-(tert-Butoxycarbonylamino)-3-(6-(trifluoromethyl)pyridin-3-yl)propanoic acid | 7.2 mmol, 2.4 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC=1C=NC(=CC1)C(F)(F)F | C14H17F3N2O4
reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 7.9 mmol, 1.1 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | N-((cyclohexylimino)methylene)cyclohexanamine | 7.9 mmol, 1.6 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | N,N-dimethylpyridin-4-amine | 11 mmol, 1.4 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | (S)-tert-Butyl 1-(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-yl)-1-oxo-3-(6-(trifluoromethyl)pyridin-3-yl)propan-2-ylcarbamate | 3.0 g, 91% | CC1(OC(C(C(O1)=O)C([C@H](CC=1C=NC(=CC1)C(F)(F)F)NC(OC(C)(C)C)=O)=O)=O)C | C20H23F3N2O7
